Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])[O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.13106030051
[C:1]#[C:2][O:3][C:4](=[O:5])[C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2].[O:3][C:4](=[O:5])[C:6]([H:7])([H:8])[H:9],4.77823734427
[C:4]([H:5])[C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-6.75728872
[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-4.23850105505
[C:1]#[C:2][O:3][C:4]([H:5])=[C:6][H:7].[C:8]([H:9])([H:10])[H:11]>>[C:1]=[C:2]([O:3][C:4]([H:5])=[C:6][H:7])[C:8]([H:9])([H:10])[H:11],-3.04849954157
[H:1][C:2][C:3](=[O:4])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-3.56583093667
[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[H:1].[O:2]=[C:3][O:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],2.43550441858
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:10].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7]/[C:8]([H:9])=[C:11](\[H:12])[C:13]([H:14])[H:15],3.5731509922300004
[H:11].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[O:10]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[O:10])[H:11],-3.98874010158
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:10].[H:1][O:2]/[C:3]=[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:11][H:12],2.76548203337
[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.5229318808
[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12][H:13]>>[H:3].[O:1]=[C:2]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12][H:13],0.911717691937
[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-5.14279082364
[C:3]([H:4])#[C:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-2.95671274877
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7],1.14303235609
[H:1][C:2][O:3]/[C:4]([H:5])=[C:7]/[O:8][H:9].[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][O:8][H:9],-2.94880099644
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[O:8][C:9]([H:10])([H:11])[H:12].[H:7]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12],-4.81394544619
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])=[C:7]([H:8])[H:9].[H:1][O:2][C:3](=[C:4])[C:10]([H:11])([H:12])[H:13],4.94725253845
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13]>>[C:1]([C:2]([H:3])([H:4])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13])([H:6])[H:7].[C:5],3.9230423390800007
[C:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2][O:3][C:4]([H:5])[H:6].[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],2.58936269074
[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[H:8]>>[O:1]=[C:2][C:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-1.67611485865
[C:1]#[C:2][H:3].[H:4]>>[C:1]=[C:2]([H:3])[H:4],-4.0430051249900005
[H:1][O:2][C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3][C:4]([O:6][H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[H:5],2.51820024031
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13]>>[C:1]#[C:2][C:3]([H:4])([H:5])[H:6].[C:7]([H:8])([H:9])=[C:10]([H:11])[O:12][H:13],0.749282449119
[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2][O:4][C:5][O:6][C:7]([H:8])([H:9])[H:10].[H:3],4.34698228809
[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[O:1][O:2][C:3]#[C:4][H:5]>>[O:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-4.22217303501
[O:1][C:2]#[C:3][C:7]([H:8])([H:9])[H:10].[O:4]=[C:5][H:6]>>[O:1]=[C:2]=[C:3]([O:4][C:5][H:6])[C:7]([H:8])([H:9])[H:10],-0.355682045748
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])[H:9]>>[H:1][O:2][C:3]([O:5][H:6])=[C:7]([H:8])[H:9].[H:4],1.58050793949
[O:1]=[C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:7].[O:1]=[C:2][O:3][C:4](=[C:5][H:6])[C:8]([H:9])([H:10])[H:11],5.1518850774
